US07923456B2
N-(Cyclopropylmethoxy)-5-(2-fluoro-4-iodophenylamino)imidazo[1,5-a]pyrazine-6-carboxamide
The title compound was prepared in an analogous fashion to N-ethoxy-5-(2-fluoro-4-iodophenylamino)imidazo[1,5-a]pyrazine-6-carboxamide, using O-(cyclopropylmethyl)-hydroxylaminehydrochloride as the starting material. 1H NMR (DMSO-d6, 400 MHz) δ ppm 11.82 (s, 1H), 10.36 (s, 1H), 8.82 (s, 1H), 7.95 (s, 1H), 7.91 (s, 1H), 7.73 (dd, J=10.4 Hz, 1.8 Hz, 1H), 7.44 (d, 8.4 Hz, 1H), 6.58 (t, J=8.4 Hz, 1H), 3.67 (d, J=7.2 Hz, 2H), 1.12 to 1.01 (m, 1H), 0.54-0.48 (m, 2H), 0.28-0.23 (m, 2H); LCMS (method D2): RT=1.33 min, [M+H]+=468.

reactant | N-ethoxy-5-(2-fluoro-4-iodophenylamino)imidazo[1,5-a]pyrazine-6-carboxamide | C(C)ONC(=O)C=1N=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2 | C15H13FIN5O2
reactant | O-(cyclopropylmethyl)-hydroxylaminehydrochloride | Cl.C1(CC1)CON
product | N-(Cyclopropylmethoxy)-5-(2-fluoro-4-iodophenylamino)imidazo[1,5-a]pyrazine-6-carboxamide | C1(CC1)CONC(=O)C=1N=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2 | C17H15FIN5O2
